US06668527B2
E. 2-Allyloxycarbonylamino-2-[3-(1-tert-butoxycarbonyl-pyrrolidin-2-yl)-isoxazol-5-ylmethyl]-malonic acid monoethyl ester
Sodium hydroxide, 1M, (21.5 mL, 21.5 mmol) was added in portions over 30 minutes to a dioxane (22 mL) solution of 2-allyloxycarbonylamino-2-[3-(1-tert-butoxycarbonylpyrrolidin-2-yl)-isoxazol-5-ylmethyl]-malonic acid diethyl ester (10.95 g, 21.5 mmol). After stirring overnight, the reaction had not gone to completion. An additional 0.2 equivalents of 1M sodium hydroxide (4.2 mL, 4.2 mmol) was added and stirring continued for 3 hours. The reaction was diluted with ethyl acetate (50 mL) and 1M sulfuric acid (23 mL) was added dropwise at 0° C. The aqueous portion was extracted twice with ethyl acetate. The combined organic portions were dried over magnesium sulfate and concentrated in vacuo to give a the title compound. The crude product was used directly in the next step without separation of the unreacted diester. MS (CI) m/z 382.2 (M−99).

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | dioxane | 22 mL | O1CCOCC1 | C4H8O2
reactant | 2-allyloxycarbonylamino-2-[3-(1-tert-butoxycarbonylpyrrolidin-2-yl)-isoxazol-5-ylmethyl]-malonic acid diethyl ester | 21.5 mmol, 10.95 g | C(C)OC(C(C(=O)OCC)(CC1=CC(=NO1)C1N(CCC1)C(=O)OC(C)(C)C)NC(=O)OCC=C)=O | C24H35N3O9
reactant | sodium hydroxide | 4.2 mmol, 1M, 4.2 mL, 0.2 equivalents | [OH-].[Na+]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | sulfuric acid | 1M, 23 mL | S(O)(O)(=O)=O | H2O4S
product | 2-Allyloxycarbonylamino-2-[3-(1-tert-butoxycarbonyl-pyrrolidin-2-yl)-isoxazol-5-ylmethyl]-malonic acid monoethyl ester | C(C)OC(C(C(=O)O)(CC1=CC(=NO1)C1N(CCC1)C(=O)OC(C)(C)C)NC(=O)OCC=C)=O | C22H31N3O9
